US06255496B1
3-[4-[2-(2-hydroxyethylthio]ethoxy]phenyl]propanoic acid
A solution of 3-[4-[2-(2-hydroxyethylthio)ethoxy]phenyl]propanoic acid, methyl ester (37.64 g, 0.132 mol) in 80% aqueous ethanol (300 ml) was treated with a solution of potassium hydroxide (17.0 g, 0.257 mol) in water (25 ml) and the resulting mixture was stirred at 22° C. for 1 h. The solvent was then concentrated in vacuo and the residue was diluted with water (200 ml) and dichloromethane (200 ml). The aqueous phase was then adjusted to pH 2 with 6N hydrochloric acid and extracted several times with dichloromethane. The combined organic extracts were washed with brine, dried (magnesium sulfate) and evaporated to give 35.67 g (100%) of the title material as a white solid: mp 64-65° C.

reactant | 3-[4-[2-(2-hydroxyethylthio)ethoxy]phenyl]propanoic acid, methyl ester | 0.132 mol, 37.64 g | OCCSCCOC1=CC=C(C=C1)CCC(=O)OC | C14H20O4S
reactant | potassium hydroxide | 0.257 mol, 17.0 g | [OH-].[K+]
solvent | ethanol | 300 ml | C(C)O | C2H6O
solvent | water | 25 ml | O | H2O
product | 3-[4-[2-(2-hydroxyethylthio]ethoxy]phenyl]propanoic acid | 35.67 g, 100% | OCCSCCOC1=CC=C(C=C1)CCC(=O)O | C13H18O4S
